US05442060
To a solution of 1.37 g (7.12 mmol) of 2, 6-diisopropylbenzyl alcohol in 20 ml of toluene was added 0.78 ml (10.7 mmol) of thionyl chloride, and the resultant mixture was stirred at room temperature for 3.5 hours. The reaction mixture was washed with water, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo to give 1.49 g of 2, 6-diisopropylbenzyl chloride as an oil.

reactant | 2, 6-diisopropylbenzyl alcohol | 7.12 mmol, 1.37 g | C(C)(C)C1=C(CO)C(=CC=C1)C(C)C | C13H20O
reactant | thionyl chloride | 10.7 mmol, 0.78 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2, 6-diisopropylbenzyl chloride | 1.49 g | C(C)(C)C1=C(CCl)C(=CC=C1)C(C)C | C13H19Cl
